US05817851
94.8 g (0.5 mol) of tin(II) chloride and 50 g (0.5 mol) of acetylacetone in 200 ml of diethyl ether were placed in a reactor at room temperature. 39.3 g (0.5 mol) of acetyl chloride were metered in over 15 min, the temperature rising to 36° C. After a postreaction time of 2 h at room temperature, the white crystals which had precipitated out were filtered off and washed twice with 50 ml of diethyl ether. After drying under vacuum, 88 g (57% of theory) of 1-methylbut-1-en-3-onyltin trichloride (Cl3Sn--C(CH3)=CH--CO--CH3) melting at 129°-130° C. were isolated.

reactant | tin(II) chloride | 0.5 mol, 94.8 g | [Sn](Cl)Cl
reactant | acetylacetone | 0.5 mol, 50 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetyl chloride | 0.5 mol, 39.3 g | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-methylbut-1-en-3-onyltin trichloride | 88 g, 57% | CC(=CC(C)=O)[Sn](Cl)(Cl)Cl | InChI=1S/C5H7O.3ClH.Sn/c1-3-4-5(2)6;;;;/h4H,1-2H3;3*1H;/q;;;;+3/p-3
